US04238490
Sodium (11.5 g) was allowed to react with ethanol and then benzilmonohydrazone (120 g) and ethyl phenylacetate (84 g) were added and the reaction mixture heated at reflux for 3 hours. The reaction was quenched in water and the suspension acidified. The resulting precipitate was separated and refluxed with acetonitrile, cooled and separated by filtration to obtain 4,5,6-triphenyl-2H-pyridazin-3-one (30 percent yield), m.p. 290°-292° C.

reactant | Sodium | 11.5 g | [Na] | Na
reactant | benzilmonohydrazone | 120 g | C1(=CC=CC=C1)C(C(=O)C1=CC=CC=C1)=NN | C14H12N2O
reactant | ethyl phenylacetate | 84 g | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
solvent | ethanol | C(C)O | C2H6O
product | 4,5,6-triphenyl-2H-pyridazin-3-one | 30 percent yield | C1(=CC=CC=C1)C=1C(NN=C(C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H16N2O
